US07767691B2
Preparation of 4-[cyano(diphenyl)methyl]-1-(3-phenylpropyl)-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 24, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile (0.044 g, 0.152 mmol) and (3-bromopropyl)benzene (0.035 mL, 0.230 mmol) in 2CH3CN/3CHCl3 (3.5 mL) were reacted to give the desired product (0.0328 g, 44.3%). EI-MS m/z 407 (M+) Rt (1.82 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.152 mmol, 0.044 g | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
reactant | (3-bromopropyl)benzene | 0.230 mmol, 0.035 mL | BrCCCC1=CC=CC=C1 | C9H11Br
product | 4-[cyano(diphenyl)methyl]-1-(3-phenylpropyl)-1-azoniabicyclo[2.2.1]heptane bromide | 0.0328 g, 44.3% | [Br-].C(#N)C(C12CC[N+](CC1)(C2)CCCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H31N2.BrH/c30-23-29(26-14-6-2-7-15-26,27-16-8-3-9-17-27)28-18-21-31(24-28,22-19-28)20-10-13-25-11-4-1-5-12-25;/h1-9,11-12,14-17H,10,13,18-22,24H2;1H/q+1;/p-1
